US07326699B2
cis and trans-3-[4-Amino-5-(3-benzyloxy-phenyl)-6-ethyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid methyl ester
A mixture of 1.26 g (2.74 mmol) 5-(3-benzyloxy-phenyl)-6-ethyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, 1.53 g (10.9 mmol) of powdered potassium carbonate and 2.92 g (10.9 mmol) 18-crown-6 ether in 12 ml dry N,N-dimethylformamide is stirred for 15 min at 80° C. 1.7 g (8.2 mmol) of 3-Methanesulfonyloxy-cyclobutanecarboxylic acid methyl ester, dissolved in 9 ml dry N,N-dimethylformamide, is added dropwise in 15 min. After stirring for 42 h at 80° C., work-up is effected by filtering the reaction mixture on hyflo and evaporating the solvent. The residue is partitioned between water and ethyl acetate. The organic layer is dried over sodium sulfate and concentrated in vacuo. The crude product is purified and separated by flash chromatography (hexane-ethyl acetate 1:2). The ratio cis to trans isomer is about 70:30 (by HPLC, Grad25).

reactant | 5-(3-benzyloxy-phenyl)-6-ethyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 2.74 mmol, 1.26 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(NC=2N=CN=C(C21)N)CC | C21H20N4O
reactant | potassium carbonate | 10.9 mmol, 1.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 ether | 10.9 mmol, 2.92 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 3-Methanesulfonyloxy-cyclobutanecarboxylic acid methyl ester | 8.2 mmol, 1.7 g | COC(=O)C1CC(C1)OS(=O)(=O)C | C7H12O5S
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | trans-3-[4-Amino-5-(3-benzyloxy-phenyl)-6-ethyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@H](C1)N1C(=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2)CC | C27H28N4O3
